US08497371B2
2-(4-{[(3-iodophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (29)
Pipemidic acid (40 mg, 0.133 mmol) and 3-iodophenyl isothiocyanate (29 mg, 0.111 mmol) were used. Purification on silica yielded compound 29 in Table 1, below (57 mg, 90%). 1H NMR (250 MHz, CDCl3) δ 9.33 (s, 1H), 8.73 (s, 1H), 7.66-7.64 (m, 1H), 7.54-7.51 (m, 1H), 7.40-7.24 (m, 1H), 7.12-7.06 (m, 1H), 4.48-4.31 (m, 2H), 4.27-3.93 (m, 8H), 1.34-1.17 (m, 3H) ppm.

reactant | Pipemidic acid | 0.133 mmol, 40 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 3-iodophenyl isothiocyanate | 0.111 mmol, 29 mg | IC=1C=C(C=CC1)N=C=S | C7H4INS
product | 2-(4-{[(3-iodophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | IC=1C=C(C=CC1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21IN6O3S
